US07253198B2
To a solution of methyl 4-amino-1H-indole-6-carboxylate (D201) (1.0 g, 5.3 mmol, 1 equiv) in CH2Cl2 (50 ml) were added pyridine (0.55 g, 6.5 mmol, 1.2 equiv), 4-chloro-1-butanesulfonyl chloride (1.14 g, 6 mmol, 1.1 equiv) and DMAP (300 mg, 2.45 mmol, 0.5 equiv) and the resulting mixture was stirred at room temperature for 5 h. NEt3 (1 ml, 7.2 mmol, 1.3 equiv) was added and the resulting solution stirred for 2 h then diluted with AcOEt, washed with a 2N aqueous solution, a saturated aqueous NaHCO3 solution, dried over MgSO4 and concentrated in vacuo. The residue was dissolved in MeOH (20 ml) and treated with a 2N aqueous NaOH solution (10 ml, 20 mmol, excess). The resulting solution was stirred at room temperature for 15 h then most of the MeOH was removed in vacuo. The residue was partitioned between AcOEt and a 2N aqueous HCl solution. The two layers were separated and the organic phase was dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (CH2Cl2/MeOH: 9/1) gave 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-1H-indole-6-carboxylic acid (A155) (320 mg, 20%) as a pale pink solid. [M+H]=295.0, RT=1.90 min.

reactant | methyl 4-amino-1H-indole-6-carboxylate | 5.3 mmol, 1.0 g, 1 equiv | NC1=C2C=CNC2=CC(=C1)C(=O)OC | C10H10N2O2
reactant | pyridine | 6.5 mmol, 0.55 g, 1.2 equiv | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-1-butanesulfonyl chloride | 6 mmol, 1.14 g, 1.1 equiv | ClCCCCS(=O)(=O)Cl | C4H8Cl2O2S
reactant | NEt3 | 7.2 mmol, 1 ml, 1.3 equiv | CCN(CC)CC | C6H15N
reactant | NaOH | 20 mmol, 2N, 10 ml | [OH-].[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.45 mmol, 300 mg, 0.5 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-(1,1-dioxidotetrahydro-2H-1,2-thiazin-2-yl)-1H-indole-6-carboxylic acid | 320 mg, 20% | O=S1(N(CCCC1)C1=C2C=CNC2=CC(=C1)C(=O)O)=O | C13H14N2O4S
